US06627629B2
Part B. Preparation of (3R,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester.
A cloudy solution of (3R,4S)-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester (80 mg, 240 μmol) in methylene chloride (5 mL) was treated with benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate (151 mg, 290 μmol) and triethylamine (77 μL, 550 μmol) and stirred for 5 minutes. A solution of the (S)-3-(4-flourobenzyl)-piperdine prepared above in methylene chloride (5 mL) was added and the mixture was stirred at room temperature. After 18 h , the mixture was washed with water and saturated NaHCO3, dried (Na2SO4) and concentrated. The residue was purified by flash column chromatography (50% ethyl acetate/hexanes) to provide the product as a gum (100 mg, 82%). 1H NMR (300 mHz, CD3OD) δ7.32-6.95 (7H), 4.42-4.30 (1H), 3.90-2.48 (14H), 1.80-1.62 (3H), 1.40 (bs, 9H), 1.29 (d, 3H); mass spec. (ES+) m/z 510.4.

reactant | (3R,4S)-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | 240 μmol, 80 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)C(=O)O | C18H26N2O4
reactant | benzotriazol-1-yloxy-tripyrrolidinophosphonium hexafluorophosphate | 290 μmol, 151 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | triethylamine | 550 μmol, 77 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-3-(4-flourobenzyl)-piperdine | FC1=CC=C(C[C@H]2CNCCC2)C=C1 | C12H16FN
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (3R,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 100 mg, 82% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C30H40FN3O3
